US04529732
N-(2-Propynyl)-cis-2-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-4-piperidinol
Employing the procedure of Example 10 with 321 mg (1.01 mmole) of cis-2-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-4-piperidinol, 82 microliter (1.06 mmole) or propynyl bromide and 292 mg (2.12 mmole) of potassium carbonate affords 205 mg (57%) of the title compound as an oil.

reactant | cis-2-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-4-piperidinol | 1.01 mmole, 321 mg | CC(CCCCCC)(C)C1=CC(=C(C=C1)[C@@H]1NCC[C@@H](C1)O)O | C20H33NO2
reactant | propynyl bromide | C(#CC)Br | C3H3Br
reactant | potassium carbonate | 2.12 mmole, 292 mg | C([O-])([O-])=O.[K+].[K+]
product | N-(2-Propynyl)-cis-2-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-4-piperidinol | 205 mg, 57% | C(C#C)N1[C@H](C[C@H](CC1)O)C1=C(C=C(C=C1)C(CCCCCC)(C)C)O | C23H35NO2
